US04301280
1-(3-Phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en-2-yl diphenylphosphinate
To a stirred solution of p-nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate (4.69 g) in tetrahydrofuran (60 ml) under a nitrogen atmosphere at 0°-5° C. was added triethylamine (1.6 ml.) followed by diphenylphosphinyl chloride (2.73 g.) dropwise over 5 minutes. After stirring for 3 hours at 20° C., the tetrahydrofuran was evaporated and the residue dissolved in dichloromethane. The resulting solution was washed with 1% hydrochloric acid and then water, dried with magnesium sulphate and evaporated to give the title compound as a pale yellow friable foam in essentially quantitative yield. TLC (silica) RF 0.54 (ethyl acetate). NMRδCDCl3 2.5 (s, 3H), 3.63 and 4.40 (ABq, 2H, J=14 Hz), 5.13 (s, 2H), 5.68 (d, 1H, J=4 Hz), 5.85 (d, 1H, J=4 Hz) and 6.5-8.03 (m, 20H).

reactant | p-nitrobenzyl α-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate | 4.69 g | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O7S
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphinyl chloride | 2.73 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-(3-Phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-1-(p-nitrobenzyloxycarbonyl)-prop-1-en-2-yl diphenylphosphinate | quantitative yield | C1(=CC=CC=C1)P(OC(=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C2SC(=NC2C1=O)COC1=CC=CC=C1)C)(=O)C1=CC=CC=C1 | C34H28N3O8PS
